US08557840B2
Preparation of 2,2-dimethyl-propionic acid 3-(2-chloro-3,6-difluoro-phenyl)-1-ethyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-4-yl ester (Compound No. B1 of Table B)
To a solution of 2,2-dimethyl-propionic acid 3-(2-chloro-3,6-difluoro-phenyl)-2-oxo-1,2-dihydro-[1,6]naphthyridin-4-yl ester (250 mg) in acetonitrile (1.5 ml) was added potassium carbonate (88 mg) followed by methyl iodide (51 μl). The reaction mixture was heated to 100° C. for 22 minutes in a microwave and then cooled to ambient temperature. The reaction mixture was diluted with ethyl acetate and water. The phases were separated. The organic fraction was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane 1:3 and then 1:1) to give Compound No. B1 of Table B as an orange oil (16 mg). 1H-NMR (400 MHz, CDCl3): 8.84 (s, 1H), 8.71 (d, 1H), 7.32 (d, 1H), 7.18-7.23 (m, 1H), 7.05-7.10 (m, 1H), 4.38 (q, 2H), 1.41 (t, 3H), 1.16 (s, 9H) ppm.

reactant | 2,2-dimethyl-propionic acid 3-(2-chloro-3,6-difluoro-phenyl)-2-oxo-1,2-dihydro-[1,6]naphthyridin-4-yl ester | 250 mg | ClC1=C(C(=CC=C1F)F)C=1C(NC2=CC=NC=C2C1OC(C(C)(C)C)=O)=O | C19H15ClF2N2O3
reactant | potassium carbonate | 88 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 51 μl | CI | CH3I
reactant | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,2-dimethyl-propionic acid 3-(2-chloro-3,6-difluoro-phenyl)-1-ethyl-2-oxo-1,2-dihydro-[1,6]naphthyridin-4-yl ester | ClC1=C(C(=CC=C1F)F)C=1C(N(C2=CC=NC=C2C1OC(C(C)(C)C)=O)CC)=O | C21H19ClF2N2O3
